US09402841B2
Step C: (S)-3-(6-(pyrrolidin-3-yloxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one
Crude (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate was treated with DCM (4 mL) and TFA (2 mL) for 2 hours at RT and then concentrated. The crude product was purified by preparative HPLC eluting with a gradient of 1-25% ACN in water (acid mode) to give the title compound (125 mg, 14.0% over 3 steps).

reactant | (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C1=CC=CC(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C16H21N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(6-(pyrrolidin-3-yloxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 125 mg, 14.0% | N1C[C@H](CC1)OC1=CC=CC(=N1)C1=NNC(N1)=O | C11H13N5O2
